US05677306
1 g of 9-bromo-5H, 10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one is added to 6 ml of concentrated sulphuric acid (20N) at a temperature close to 0° C. 0.3 g of potassium nitrate is then added in two portions to this solution while maintaining the temperature between 0° and 5° C. The reaction medium is stirred for 18 hours at 20° C., then poured into 50 ml of ice-cold water. The insoluble matter is filtered, washed with 50 ml of ethyl acetate and dried under reduced pressure (15 mmHg; 2 kPa) at 50° C. 0.77 g of 8-nitro-9-bromo-5H, 10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one is thus obtained which melts above 260° C. (analysis: % calculated C: 44.98, H: 2.03, Br: 23.02, N: 16.14, % found C: 45.40, H: 2.20, Br: 21.30, N: 15.70).

reactant | 9-bromo-5H, 10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 1 g | BrC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | C13H8BrN3O
reactant | sulphuric acid | 20N, 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 0.3 g | [N+](=O)([O-])[O-].[K+]
product | 8-nitro-9-bromo-5H, 10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 0.77 g | [N+](=O)([O-])C1=C(C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)Br | C13H7BrN4O3
